US04923857
To a solution of oxalyl chloride (0.52 ml) in dichloromethane (15 ml) was added dropwise dimethyl sulfoxide (0.60 ml) at -78° C. After stirring at -78° C. for 10 minutes, to the mixture was added dropwise a solution of (2S)-5-allyloxycarbonylimino-2-hydroxymethyl-1-methylpyrrolidine (0.63 g) in dichloromethane (10 ml). After stirring at -78° C. for 10 minutes, to the mixture was added dropwise triethylamine (2.1 ml) and the resulting mixture was allowed to warm to 0° C. The mixture was washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel eluting with a mixture of acetone and dichloromethane (1:4 V/V) to give (2S)-5-allyloxycarbonylimino-2-formyl-1-methylpyrrolidine (0.46 g).

reactant | oxalyl chloride | 0.52 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.60 ml | CS(=O)C | C2H6OS
reactant | (2S)-5-allyloxycarbonylimino-2-hydroxymethyl-1-methylpyrrolidine | 0.63 g | C(C=C)OC(=O)N=C1CC[C@H](N1C)CO | C10H16N2O3
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2S)-5-allyloxycarbonylimino-2-formyl-1-methylpyrrolidine | 0.46 g | C(C=C)OC(=O)N=C1CC[C@H](N1C)C=O | C10H14N2O3
